US03984465
(1-Oxo-2-hydroxymethyl-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic Acid
To a solution of (1-oxo-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic acid (3.17 g., 0.01 mole) and sodium hydroxide (0.5 g., 0.0125 mole) in water (90 ml.) is added aqueous formaldehyde (1 ml., 0.012 mole). The resulting solution is stirred at 20°-25° C. for 41/2 days and acidified with hydrochloric acid. There is obtained 2.5 g. of (1-oxo-2-hydroxymethyl-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 200°-202° C. after recrystallization from ethanol-water.

reactant | (1-oxo-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.01 mole, 3.17 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C(C)C | C14H14Cl2O4
reactant | sodium hydroxide | 0.0125 mole, 0.5 g | [OH-].[Na+]
reactant | formaldehyde | 0.012 mole, 1 ml | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 90 ml | O | H2O
product | (1-Oxo-2-hydroxymethyl-2-isopropyl-6,7-dichloro-5-indanyloxy)acetic Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C(C)C)CO | C15H16Cl2O5
